US07858717B2
5-tert-Butyl-2-methyl-7-tert-butylphenyl-1H-indene
5-tert-Butyl-7-(4-tert-butylphenyl)-2-methyl-1-indanone (10.37 g, 31mmol) in Et2O (150 ml) was added dropwise at 0° C. to LiAlH4 (0.6 g, 16 mmol) in Et2O (100 ml). After 1 h of stirring, 5% HCl (50 ml) was added, the organic phase was separated, the water layer was extracted in Et2O (2×50 ml). The combined organic phase was washed with aq. Na2CO3, dried over MgSO4 and evaporated. The residue was dissolved in benzene (500 ml), p-TSA (1 g) was added, the resulting mixture was refluxed for 10 min, cooled, washed with water, dried over MgSO4, evaporated and dried in vacuo. The yield was 9.9 g (near quantitative); yellow viscous oil.

reactant | 5-tert-Butyl-7-(4-tert-butylphenyl)-2-methyl-1-indanone | 31mmol, 10.37 g | C(C)(C)(C)C=1C=C2CC(C(C2=C(C1)C1=CC=C(C=C1)C(C)(C)C)=O)C | C24H30O
reactant | LiAlH4 | 16 mmol, 0.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 50 ml | Cl | ClH
solvent | Et2O | 150 ml | CCOCC | C4H10O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 5-tert-Butyl-2-methyl-7-tert-butylphenyl-1H-indene | C(C)(C)(C)C=1C=CC(=C(C1)C1C=CC2=CC=CC(=C12)C(C)(C)C)C | C24H30
